US09227985B2
Potassium tert-butoxide (1.10 g, 9.9 mmol) was added to a suspension of methyl triphenylphosphonium bromide (3.0 g, 8 mmol) in tetrahydrofuran (30 mL) under nitrogen. The reaction was stirred at room temperature for 1 h, followed by addition of 2-(2-amino-3-nitrophenoxy)-1-pyridin-2-ylethanone (2 g, 8 mmol). The mixture was stirred for 3 h, and was then partitioned between water and ethyl ether. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated to give the crude product. The product was purified by FCC on silica gel eluting with a hexane:ethyl acetate gradient to give 2-nitro-6-[(2-pyridin-2-ylprop-2-en-1-yl)oxy]aniline as light brown solid (0.5 g, 20%). LCMS calculated for C14H14N3O3 (M+H)+: m/z=272.1. found: 272.1.

reactant | Potassium tert-butoxide | 9.9 mmol, 1.10 g | CC(C)([O-])C.[K+]
reactant | 2-(2-amino-3-nitrophenoxy)-1-pyridin-2-ylethanone | 8 mmol, 2 g | NC1=C(OCC(=O)C2=NC=CC=C2)C=CC=C1[N+](=O)[O-] | C13H11N3O4
catalyst | methyl triphenylphosphonium bromide | 8 mmol, 3.0 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-nitro-6-[(2-pyridin-2-ylprop-2-en-1-yl)oxy]aniline | 0.5 g, 20% | [N+](=O)([O-])C1=C(N)C(=CC=C1)OCC(=C)C1=NC=CC=C1 | C14H13N3O3
